### PR TITLE
[Merged by Bors] - chore(Algebra/LinearRecurrence): remove a defeq abuse

### PR DESCRIPTION
**Pull request by wwylele**
The previous code abuses defeq between `Subtype E.IsSolution` (coming from `← Subtype.mk.injEq` rewrite) and `Subtype (· ∈ E.solSpace)` (coming from coercing submodule).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/LinearRecurrence.lean [hunk 1]
```diff
@@ -155,11 +155,11 @@ theorem repr_basis_eq (u : E.solSpace) :
 theorem repr_basis_apply (u : E.solSpace) (n : Fin E.order) : E.basis.repr u n = u.val n :=
   rfl
 
-set_option backward.isDefEq.respectTransparency false in
 /-- Two solutions are equal iff their initial conditions are equal. -/
 theorem eq_iff_eqOn_range_order (u v : ℕ → R) (hu : E.IsSolution u) (hv : E.IsSolution v) :
     u = v ↔ Set.EqOn u v ↑(range E.order) := by
-  rw [← Subtype.mk.injEq u hu v hv, ← E.basis.repr.injective.eq_iff]
+  rw [← Subtype.mk.injEq u ((is_sol_iff_mem_solSpace _ _).mp hu) v
+    ((is_sol_iff_mem_solSpace _ _).mp hv), ← E.basis.repr.injective.eq_iff]
```
Comment (ocfnash) [inline Mathlib/Algebra/LinearRecurrence.lean]: Let's make this easier to read:
```suggestion
  replace hu : u ∈ E.solSpace := (is_sol_iff_mem_solSpace _ _).mp hu
  replace hv : v ∈ E.solSpace := (is_sol_iff_mem_solSpace _ _).mp hv
  rw [← Subtype.mk.injEq u hu v hv, ← E.basis.repr.injective.eq_iff]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply my suggestion and then feel free to merge.

bors d+
